US04730006
3-amino-4,4-difluoro-7-methoxy-1-heptene (36)
Under an atmosphere of nitrogen, 2,2-difluoro-5-methoxyvaleronitrile (4.85 mg, 3.25 mmoles), dissolved in tetrahydrofuran (5 ml), is slowly added to vinyl magnesium bromide (8 ml, 0.5M in tetrahydrofuran, 4 mmoles) previously cooled to -12° C. The reaction mixture is kept at -10° C. for 1/2 hour and then cooled to -40° C. A solution/suspension of sodium borohydride (133 mg, 3.5 mmoles) in methanol (14 ml) and water (0.5 ml), cooled to -40° C., is poured into the mixture, The temperature is allowed to rise to 0° C., and the mixture kept at this temperature for 10 min. The mixture is acidified with 6N HCl and concentrated under reduced pressure. The residue is dissolved in water, the aqueous solution is extracted twice to remove by-products, made alkaline with 4N NaOH, saturated with sodium chloride, and extracted again twice with ether. Usual work-up gives the title compound as a yellowish oil which is used for the next step without further purification: 420 mg (70)%.

reactant | 2,2-difluoro-5-methoxyvaleronitrile | 3.25 mmoles, 4.85 mg | FC(C#N)(CCCOC)F | C6H9F2NO
reactant | vinyl magnesium bromide | 4 mmoles, 0.5M, 8 ml | C(=C)[Mg]Br
reactant | sodium borohydride | 3.5 mmoles, 133 mg | [BH4-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 14 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
product | 3-amino-4,4-difluoro-7-methoxy-1-heptene | NC(C=C)C(CCCOC)(F)F | C8H15F2NO
